US04778514
After the reaction was completed, the mixture was extracted twice with ethyl ether to eliminate unreacted p-chlorophenoxychloride, and the extracted aqueous phase was acidified with hydrochloric acid to precipitate a product which was then extracted three times with ethyl acetate. The extract was evaporated to dryness, and the residue was recrystallized from ethyl acetate/benzene/hexane to obtain a color-less crystal of N-(p-chlorophenoxy)acetyl-L-threonine. To a solution of 5 m moles of N-(p-chlorophenoxy)acetyl-L-threonine in ethyl ether, a solution of an excess amount of diazomethane in ethyl ether was added, and the mixture was allowed to stand for 30 minutes at a room temperature. The mixture was evaporated to dryness under a reduced pressure to obtain N-(p-chlorophenoxyacetyl)-L-threonine methyl ester. 3.4 m moles of N-(p-chlorophenoxyacetyl)-L-threonine methyl ester was dissolved in dried pyridine, and the resulting solution was added with 3.6 m moles of p-toluenesulfonyl chloride, stirred at 0° C. for two hours and at a room temperature for two hours. The reaction mixture was then partitioned between water and ethyl acetate, and organic phase was washed with 1N hydrochloric acid and water, and dried on anhydrous sodium sulfate. The solution was evaporated to dryness, and the resulting residue was purified by a middle pressure column chromatography with silica gel to obtain N-(p-chlorophenoxyacetyl)-O-(p-toluenesulfonyl)-L-threonine methyl ester. 0.5 m moles of N-(p-chlorophenoxyacetyl)-O-(p-toluenesulfonyl)-L-threonine methyl ester was then dissolved in 10 ml of methanol, the resulting solution was added with 1.5 ml of 1N sodium hydroxide and stirred for 20 minutes at a room temperature, and methanol was distilled off. The residue was acidified with 1N hydrochloric acid, and extracted with ethyl ether, and an organic phase was dried on anhydrous magnesium sulfate. Solvent was distilled off from the mixture to obtain a residue. The residue was then chromatographically purified to obtain the title compound N-(p-chlorophenoxyacetyl)-α,β-dehydrohomoalanine.

reactant | N-(p-chlorophenoxyacetyl)-L-threonine methyl ester | COC([C@@H](NC(COC1=CC=C(C=C1)Cl)=O)[C@H](O)C)=O | C13H16ClNO5
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-(p-chlorophenoxyacetyl)-O-(p-toluenesulfonyl)-L-threonine methyl ester | COC([C@@H](NC(COC1=CC=C(C=C1)Cl)=O)[C@H](OS(=O)(=O)C1=CC=C(C=C1)C)C)=O | C20H22ClNO7S
